US06331538B1
2-Cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxylic Acid
A solution of ethyl 2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridine-carboxylate (Example E-2, 270 mg, 0.92 mmol) and NaOH (360 mg, 9.0 mmol) in water (1 mL), THF (2 mL), and MeOH (1 mL) was refluxed for 3 hours. The mixture was cooled to room temperature, acidified with dilute HCl to pH 6, and evaporated under reduced pressure. The residue was mixed with 10% MeOH/dichloromethane (40 mL), dried on sodium sulfate, filtered, and evaporated. The solid residue was further washed with hexane and dried in vacuo, giving 215 mg of the title compound as powder, mp 64-66° C.

reactant | ethyl 2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridine-carboxylate | 0.92 mmol, 270 mg | C1(CC1)NC1=NC(=C(C=C1C(=O)OCC)F)N1CCCC1 | C15H20FN3O2
reactant | NaOH | 9.0 mmol, 360 mg | [OH-].[Na+]
reactant | MeOH | 1 mL | CO | CH4O
reactant | HCl | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxylic Acid | 215 mg | C1(CC1)NC1=NC(=C(C=C1C(=O)O)F)N1CCCC1 | C13H16FN3O2
